US07393852B2
A. Preparation of (R,E)-tert-butyl 6-(2-cyanovinyl)-1,2,3,4-tetrahydronaphthalen-1-ylcarbamate
To a 300 mL flame dry 3-neck round bottom flask was added diethyl cyanophosphonate (14.86 g, 83.89 mmol) and THF (100 mL). After cooled to 0° C., sodium bis(trimethyl-silyl)amide (72.0 mL, 71.90 mmol) was added dropwise via the addition funnel. After stirred for 30 min at 0° C., It was cooled to −78° C. followed by adding (R)-tert-butyl-6-formyl-1,2,3,4-tetrahydronaphthalen-1-ylcarbamate (6.6 g, 23.97 mmol) in TBF (60 mL) dropwise via the addition funnel. It was stirred for 18 h. Acetone cyanohydrin (3.1 mL, 33.48 mmol) was then added dropwise via the addition funnel. The resulting mixture was warmed up to rt and continued to stir for 18 h. The reaction mixture was quenched with sat. NH4Cl. Solvent was evaporated in vacuo. The residue was extracted with EtOAc. The organic layer was washed with H2O, brine, dried over MgSO4 and removed solvent. The crude product was purified by chromatography on silica gel. Elution with Hex:EtOAc mixture (70:30) gave final compound. MS m/z: 299.12 (M+H). Calc'd. for C18H22N2O2-298.23. B. (R,E)-3-(5-amino-5,6,7,8-tetrahydronaphthalen-2-yl)acralonitrile The product from the previous step was deprotected using HCl in dioxane to give the title compound in quantitative yield. MS m/z: 199.12 (M+H). Calc'd. for C13H14N2-198.23. C. N-((R)-6-((E)-2-cyanovinyl)-1,2,3,4-tetrahydronaphthalen-1-yl)-2-((R)-3-oxo-1-tosylpiperazin-2-yl)acetamide To a 250 mL round bottom flask was added (R)-2-(3-oxo-1-tosylpiperazin-2-yl)acetic acid (2.0 g, 6.40 mmol), followed by (R,E)-3-(5-amino-5,6,7,8-tetrahydronaphthalen-2-yl)acrylonitrile (1.26 g, 6.40 mmol), dry CH2Cl2 (70 mL), HATU (1.2 mg, 3.20 mmol), EDCI (1.4 g, 7.04 mmol) and hunig base (2.2 mL, 12.80 mmol). The resulting mixture was stirred at rt for 20 h. Removed solvent to dryness. The residue was purified by chromatography on silica gel. Elution with CH2Cl2:MeOH mixture (95:5) gave final compound (2.1 g, 66%). MS m/z: 493.3 (M+H). Calc'd. for C26H28N4O4S -492.6. D. N-((R)-6-(3-aminopropyl)-1,2,3,4-tetrahydronaphthalen-1-yl)-2-((R)-3-oxo-1-tosylpiperazin-2-yl)acetamide

reactant | N-((R)-6-((E)-2-cyanovinyl)-1,2,3,4-tetrahydronaphthalen-1-yl)-2-((R)-3-oxo-1-tosylpiperazin-2-yl)acetamide | C(#N)/C=C/C=1C=C2CCC[C@H](C2=CC1)NC(C[C@H]1N(CCNC1=O)S(=O)(=O)C1=CC=C(C)C=C1)=O | C26H28N4O4S
reactant | (R)-2-(3-oxo-1-tosylpiperazin-2-yl)acetic acid | 6.40 mmol, 2.0 g | O=C1[C@H](N(CCN1)S(=O)(=O)C1=CC=C(C)C=C1)CC(=O)O | C13H16N2O5S
reactant | (R,E)-3-(5-amino-5,6,7,8-tetrahydronaphthalen-2-yl)acrylonitrile | 6.40 mmol, 1.26 g | N[C@H]1C=2C=CC(=CC2CCC1)/C=C/C#N | C13H14N2
reactant | HATU | 3.20 mmol, 1.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | EDCI | 7.04 mmol, 1.4 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | hunig base | 12.80 mmol, 2.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
product | (R,E)-tert-butyl 6-(2-cyanovinyl)-1,2,3,4-tetrahydronaphthalen-1-ylcarbamate | 2.1 g, 66% | C(#N)/C=C/C=1C=C2CCC[C@H](C2=CC1)NC(OC(C)(C)C)=O | C18H22N2O2
